US08048887B2
5-(3-(Benzyloxy)-2-methyl-5-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
To a mixture of 3-(benzyloxy)-5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid (0.2 g, 0.40 mmol, 1 eq), 1-(pyridin-2-yl)cyclopropanamine (0.064 g, 0.47 mmol, 1.2 eq) (60% purity), HOBT (0.68 g, 0.012 mmol, 1.7 eq), EDC.HCl (0.064 g, 0.72 mmol, 1.8 eq) in DCM at ambient temperature under nitrogen was added Diisopropylethylamine (0.26 g, 2.0 mmol, 5.0 eq). The clear mixture was stirred at ambient temperature for 12 h. The mixture was concentrated, diluted with water and extracted with EtOAc. The organic layer was further washed with water, dried over sodium sulphate and concentrated. The product obtained was further purified by column chromatography (neutral alumina) using 0.5% Methanol/DCM and preparative HPLC. Yield: 0.17 g (70%). 1H NMR (400 MHz, DMSO-d6): δ 1.26-1.27 (m, 2H), 1.54-1.56 (m, 2H), 2.18 (s, 3H), 2.81-2.82 (s, 3H), 5.26 (s, 2H) 7.13-7.15 (q, 1H, J=4.4 Hz), 7.30-7.43 (m, 6H), 7.58 (d, 4H), 7.65-7.69 (t, 2H, J=3.9 Hz), 7.74-7.79 (d, 1H, J=8.0 Hz), 7.97-8.01 (m, 2H), 8.43-8.48 (dd, 2H, J=4.89 Hz), 9.186 (s, 1H). LCMS: (ES+) m/z=626 (M+H) Ascentis Express C18 (5.0×2.1-2.7 μm). Mphase A: 2% MeCN-98% H2O-10 mM NH4COOH. Mphase B: 98% MeCN-2% H2O-10 mM NH4COOH. Flow: 5 ml/Min.

reactant | 3-(benzyloxy)-5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid | 0.40 mmol, 0.2 g, 1 eq | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1C)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1 | C31H24FNO5
reactant | 1-(pyridin-2-yl)cyclopropanamine | 0.47 mmol, 0.064 g, 1.2 eq | N1=C(C=CC=C1)C1(CC1)N | C8H10N2
reactant | HOBT | 0.012 mmol, 0.68 g, 1.7 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 0.72 mmol, 0.064 g, 1.8 eq | CCN=C=NCCCN(C)C.Cl
reactant | Diisopropylethylamine | 2.0 mmol, 0.26 g, 5.0 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-(3-(Benzyloxy)-2-methyl-5-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | C(C1=CC=CC=C1)OC=1C(=C(C=C(C1)C(NC1(CC1)C1=NC=CC=C1)=O)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)C | C39H32FN3O4
